US06992087B2
(1R,2S)-1-{[6-cyclopropyl-5-(2,4-dichlorophenyl)-3-ethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting (1R,2S)-1-[(5-bromo-6-cyclopropyl-3-ethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol and making non-critical variations provided the title compound as a solid: 1H NMR (CDCl3) δ 0.96-1.00, 1.26-1.32, 2.04, 2.35-2.40, 2.61-2.66, 3.0-3.04, 3.22-3.27, 4.09-4.14, 4.68-4.70, 5.08, 5.45-5.48, 7.23-7.31; MS (ESI+) for C24H23Cl2N3O m/z 440 (M+H)+.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | (1R,2S)-1-[(5-bromo-6-cyclopropyl-3-ethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1C1CC1)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C18H20BrN3O
product | (1R,2S)-1-{[6-cyclopropyl-5-(2,4-dichlorophenyl)-3-ethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | C1(CC1)C1=C(N=C(C(=N1)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC)C1=C(C=C(C=C1)Cl)Cl | C24H23Cl2N3O
